// Point Netlist Generated on: Jul 23 10:38:17 2025
// Generated for: spectre
// Design Netlist Generated on: Jul 23 10:38:17 2025
// Design library name: 2SOTA
// Design cell name: tb_teste
// Design view name: schematic
simulator lang=spectre
include "ade_e.scs"
global 0 vdd!
parameters temperature=27
include "/home/cadmgr/libs/tsmc-065-lp-rf/CM-SP-007-K4-1.7A2/tsmcN65/../models/spectre/toplevel.scs" section=tt_lib

// Library name: 2SOTA
// Cell name: Ideal_opamp
// View name: schematic
subckt Ideal_opamp Out in\+ in\-
    E0 (Out 0 in\+ in\-) vcvs gain=100000 min=0 max=5
ends Ideal_opamp
// End of subcircuit definition.

// Library name: 2SOTA
// Cell name: Vb2_tb
// View name: schematic
subckt Vb2_tb VDD VSS Vin Vip Von Vop
    L3 (net10 Vop) inductor l=1K
    L2 (Von net7) inductor l=1K
    L1 (net8 Vo1p) inductor l=1K
    L0 (Vo1n net6) inductor l=1K
    R5 (net13 vb2) resistor r=1K
    R4 (net15 vb1) resistor r=1K
    R3 (net5 net10) resistor r=1M
    R2 (net7 net5) resistor r=1M
    Rz1 (net2 Von) resistor r=247
    Rz2 (net4 Vop) resistor r=247
    R1 (net9 net8) resistor r=1M
    R0 (net6 net9) resistor r=1M
// === TSOTA_M1 ===
    M1a (Vo1n Vip net19 net19) pch_mac l=150n w=361.3u multi=1 nf=1 \
        sd=200n ad=8.47e-12 as=8.47e-12 pd=97.15u ps=97.15u nrd=0.00206612 \
        nrs=0.00206612 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 sigma=1      
    M1b (Vo1p Vin net19 net19) pch_mac l=150n w=361.3u multi=1 nf=1 \
        sd=200n ad=8.47e-12 as=8.47e-12 pd=97.15u ps=97.15u nrd=0.00206612 \
        nrs=0.00206612 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 sigma=1
// === TSOTA_M2 ===
    M2a (Von Vo1p VSS VSS) nch_mac l=200n w=101.8u multi=1 nf=1 sd=200n \
        ad=2.10525e-11 as=2.10525e-11 pd=240.95u ps=240.95u \
        nrd=0.000831255 nrs=0.000831255 sa=175.00n sb=175.00n sca=0 scb=0 \
        scc=0 sigma=1 
    M2b (Vop Vo1n VSS VSS) nch_mac l=200n w=101.8u multi=1 nf=1 sd=200n \
        ad=2.10525e-11 as=2.10525e-11 pd=240.95u ps=240.95u \
        nrd=0.000831255 nrs=0.000831255 sa=175.00n sb=175.00n sca=0 scb=0 \
        scc=0 sigma=1       
// === TSOTA_M3 ===
    M3a (Vo1n vb1 VSS VSS) nch_mac l=200n w=280.7u multi=1 nf=1 sd=200n \
        ad=5.6525e-12 as=5.6525e-12 pd=64.95u ps=64.95u nrd=0.00309597 \
        nrs=0.00309597 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 sigma=1
    M3b (Vo1p vb1 VSS VSS) nch_mac l=200n w=280.7u multi=1 nf=1 sd=200n \
        ad=5.6525e-12 as=5.6525e-12 pd=64.95u ps=64.95u nrd=0.00309597 \
        nrs=0.00309597 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 sigma=1
// === TSOTA_M4 ===
    M4a (Von vb2 VDD VDD) pch_mac l=150n w=23.56u multi=1 nf=1 sd=200n \
        ad=3.8675e-12 as=3.8675e-12 pd=44.55u ps=44.55u nrd=0.00452489 \
        nrs=0.00452489 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 sigma=1  
    M4b (Vop vb2 VDD VDD) pch_mac l=150n w=23.56u multi=1 nf=1 sd=200n \
        ad=3.8675e-12 as=3.8675e-12 pd=44.55u ps=44.55u nrd=0.00452489 \
        nrs=0.00452489 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 sigma=1
    I8 (VDD net19) isource dc=314u type=dc
    V6 (net11 0) vsource dc=600.0m type=dc
    VB2 (net3 0) vsource dc=460.0m type=dc
    I10 (net13 net5 net11) Ideal_opamp
    I7 (net15 net9 net3) Ideal_opamp
    C3 (net5 0) capacitor c=1
    C2 (net9 0) capacitor c=1
    C1 (vb2 0) capacitor c=1
    C0 (vb1 0) capacitor c=1
    Cadd2 (Vo1p Von) capacitor c=41.7f
    Cc1 (Vo1p net2) capacitor c=375f
    Cn2 (Vin Vo1n) capacitor c=1p
    Cn1 (Vip Vo1p) capacitor c=1p
    Cadd1 (Vo1n Vop) capacitor c=41.7f
    Cc2 (Vo1n net4) capacitor c=375f
ends Vb2_tb
// End of subcircuit definition.

// Library name: analogLib
// Cell name: ideal_balun
// View name: schematic
subckt ideal_balun d c p n
    K0 (d 0 p c) transformer n1=2
    K1 (d 0 c n) transformer n1=2
ends ideal_balun
// End of subcircuit definition.

// Library name: 2SOTA
// Cell name: tb_teste
// View name: schematic
I0 (vdd! 0 net2 net5 Von Vop) Vb2_tb
V0 (net10 0) vsource mag=1 type=dc
Vcmm (net11 0) vsource dc=600.0m type=dc
V2 (vdd! 0) vsource dc=1.2 type=dc
I1 (net10 net11 net2 net5) ideal_balun
CL\- (Vop 0) capacitor c=99f
CL\+ (Von 0) capacitor c=99f
simulatorOptions options psfversion="1.4.0" reltol=150 vabstol=150 \
    iabstol=150 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=150 \
    sensfile="../psf/sens.output" checklimitdest=psf 
ac ac start=0.1 stop=1G dec=100 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
